US05859014
substituting 1-(4-fluoro-2-methoxyphenyl)piperazine and 1-(3-chloropropyl)-5-methyl-2,4(1H,3H)-pyrimidinedione gave 1-{3-[4-(4-fluoro-2-methoxyphenyl)piperazin-1-yl]propyl}-5-methyl-2,4(1H,3H)-pyrimidinedione hydrochloride, m.p. 196°-197° C.; Anal.: Calcd. for C19H25FN4O3.(HCl)2 : C, 49.79; H, 6.16; N, 12.22%; Found: C, 50.13; H, 6.37; N, 12.27%;

reactant | 1-(4-fluoro-2-methoxyphenyl)piperazine | FC1=CC(=C(C=C1)N1CCNCC1)OC | C11H15FN2O
reactant | 1-(3-chloropropyl)-5-methyl-2,4(1H,3H)-pyrimidinedione | ClCCCN1C(NC(C(=C1)C)=O)=O | C8H11ClN2O2
product | 1-{3-[4-(4-fluoro-2-methoxyphenyl)piperazin-1-yl]propyl}-5-methyl-2,4(1H,3H)-pyrimidinedione hydrochloride | Cl.FC1=CC(=C(C=C1)N1CCN(CC1)CCCN1C(NC(C(=C1)C)=O)=O)OC | InChI=1S/C19H25FN4O3.ClH/c1-14-13-24(19(26)21-18(14)25)7-3-6-22-8-10-23(11-9-22)16-5-4-15(20)12-17(16)27-2;/h4-5,12-13H,3,6-11H2,1-2H3,(H,21,25,26);1H
